### PR TITLE
refactor: `logMahlerMeasure_eq_log_MahlerMeasure` → `log_mahlerMeasure`

### PR DESCRIPTION
**Pull request by vihdzp**
This other direction makes more sense as a simp lemma. This also fixes some bad capitalization.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 1]
```diff
@@ -67,20 +67,25 @@ theorem logMahlerMeasure_X : (X : ℂ[X]).logMahlerMeasure = 0 := by
...
-theorem logMahlerMeasure_eq_log_MahlerMeasure : p.logMahlerMeasure = log p.mahlerMeasure := by
+@[simp]
+theorem log_mahlerMeasure : log p.mahlerMeasure = p.logMahlerMeasure := by
   rw [mahlerMeasure]
   split_ifs <;> simp_all [logMahlerMeasure_def, circleAverage_def]
 
+variable {p} in
+@[deprecated log_mahlerMeasure (since := "2026-01-26")]
+theorem logMahlerMeasure_eq_log_MahlerMeasure : p.logMahlerMeasure = log p.mahlerMeasure :=
+  p.log_mahlerMeasure.symm
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean:87]: The diff seems to disagree with you about the direction, and I wouldn't mark it as `simp` either way. If this gets inconvenient later, we can always change it then.

So for now, can you please just fix the name / docstrings, and add the deprecation, but leave the directionality and `simp` alone?

Comment (vihdzp) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean:87]: This seems like quite a reasonable simp lemma to me? If we don't want to spell `log p.mahlerMeasure` as `p.logMahlerMeasure` then we shouldn't have a `logMahlerMeasure` to begin with.

Comment (fbarroero) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean:87]: > This seems like quite a reasonable simp lemma to me? If we don't want to spell `log p.mahlerMeasure` as `p.logMahlerMeasure` then we shouldn't have a `logMahlerMeasure` to begin with.

Both `logMahlerMeasure` and `mahlerMeasure` are classical concepts and I think they both deserve to be there.

Comment (vihdzp) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean:87]: I guess my question is, what do we want the canonical way to write down the logarithmic Mahler measure to be? If it is via `logMahlerMeasure` then I think the `simp` lemma is reasonable. If we're not comfortable doing this, perhaps we should switch to writing `log (mahlerMeasure p)`, and leave a docstring on `mahlerMeasure` explaining this design.
